US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-acetylphenyl)carboxamide [68]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (54 mg) and commercially available 4-acetylbenzoic acid (46 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (87 mg) was added, and the admixture was stirred at room temperature for 22 hours. The reaction mixture was then purified in the same manner as described in Example 50 to obtain 43 mg of the title compound (yield: 53%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-acetylbenzoic acid | 46 mg | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 87 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-acetylphenyl)carboxamide | 43 mg, yield: 53% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C(C)=O | C26H22N2O5
